US07105544B2
N-{3-[1-(3-{[2,2-BIS(4-CHLOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYL}BUTANAMIDE
Example 53 was prepared from bis(4-chlorophenyl)acetic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}butanamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 7.67 (s, 1H), 7.58 (s, 1H), 7.49 (br s, 1H), 7.28–7.21 (m, 10H), 6.91 (m, 1H), 4.77 (s, 1H), 3.38 (dd, 2H, J=6.0, 11.6 Hz), 2.93 (d, 2H, J=11.6 Hz), 2.46 (m, 1H), 2.41 (t, 2H, J=6.0 Hz), 2.31 (t, 2H, J=7.2 Hz), 1.96 (dt, 2H, J=1.6, 12.0 Hz), 1.82–1.66 (m, 6H), 1.58–1.54 (m, 2H), 0.98 (t, 3H, J=7.6 Hz); ESMS m/e: 566.3 (M+H)+.

reactant | bis(4-chlorophenyl)acetic acid | ClC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)Cl | C14H10Cl2O2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}butanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(CCC)=O | C18H29N3O
product | N-{3-[1-(3-{[2,2-BIS(4-CHLOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYL}BUTANAMIDE | ClC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(CCC)=O)C1=CC=C(C=C1)Cl | C32H37Cl2N3O2
